US05783572
Diisobutylaluminium hydride (19.9 mL, 1M in dichloromethane, 19.9 mmol) was added dropwise over 30 minutes to a stirred solution of 2,3-dimethoxy-6,7-dimethyl-5-(methoxycarbonyl)quinoxaline (5.0 g, 18.1 mmol) in dry dichloromethane (300 mL) under nitrogen at -90° C. After 1 hour, another portion of diisobutylaluminium hydride (19.9 mL) was added, and the mixture was stirred for a further 1.5 hours. Saturated aqueous ammonium chloride (100 mL) was added, and the mixture was allow to warm to room temperature. The mixture was filtered through Arbocel filter aid, and the filtrate was washed thoroughly with dichloromethane. The aqueous layer was separated and extracted with two portions of dichloromethane. The combined organic solutions were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography to give 2,3-dimethoxy-6,7-dimethyl-5-hydroxymethyl quinoxaline (1.25 g, 28%).

reactant | Diisobutylaluminium hydride | 19.9 mmol, 1M, 19.9 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2,3-dimethoxy-6,7-dimethyl-5-(methoxycarbonyl)quinoxaline | 18.1 mmol, 5.0 g | COC1=NC2=CC(=C(C(=C2N=C1OC)C(=O)OC)C)C | C14H16N2O4
reactant | diisobutylaluminium hydride | 19.9 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 2,3-dimethoxy-6,7-dimethyl-5-hydroxymethyl quinoxaline | 1.25 g, 28% | COC1=NC2=CC(=C(C(=C2N=C1OC)CO)C)C | C13H16N2O3
